US07750002B2
2-(6-Fluoro-1H-indazol-4-yl)-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (92)
Prepared by treatment of 5-fluoro-2-methyl-3-[6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-phenylamine with isoamyl nitrite in chloroform and acetic acid.

reactant | 5-fluoro-2-methyl-3-[6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-phenylamine | FC=1C=C(C(=C(C1)N)C)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2 | C23H29FN6OS
reactant | isoamyl nitrite | N(=O)OCCC(C)C | C5H11NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(6-Fluoro-1H-indazol-4-yl)-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | FC1=CC(=C2C=NNC2=C1)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2 | C23H26FN7OS
